US08058441B2
(d). 1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid
A 2 M NaOH solution was added dropwise to a stirred solution of 1-acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester (1.2 g) in dioxane/water 4:1 (v/v) (50 ml) until pH 12. After stirring for 18 h, the reaction mixture was poured into water and extracted with ethyl acetate at pH 2. The organic layer was washed with water and brine, dried (MgSO4) and concentrated in vacuo.

reactant | NaOH | 2 M | [OH-].[Na+]
reactant | 1-acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid methyl ester | 1.2 g | COC(=O)C=1C=C2C(CC(N(C2=CC1)C(C)=O)(C)C)(C)C1=CC=CC=C1 | C22H25NO3
reactant | water | O | H2O
solvent | dioxane water | 50 ml | O1CCOCC1.O
product | 1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid | C(C)(=O)N1C(CC(C2=CC(=CC=C12)C(=O)O)(C)C1=CC=CC=C1)(C)C | C21H23NO3
